US09371280B2
In a manner similar to the method described in Example 7, chiral 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (100.4 mg, 0.163 mmol) was reacted with N,N′-carbonyldiimidazole (Aldrich, 69.2 mg, 0.414 mmol) and then, a mixture of 2-methoxyethanol (Sigma Aldrich, 38.6 mg, 0.506 mmol) and sodium hydride (9.7 mg, 0.384 mmol) in tetrahydrofuran to give chiral 2-methoxyethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate as a white solid (89 mg, 81% yield). MS (ES+) m/z calcd. for C34H37Cl2F2N4O4 [(M+H)+]: 674. found: 674.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 0.163 mmol, 100.4 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-methoxyethanol | 0.506 mmol, 38.6 mg | COCCO | C3H8O2
reactant | sodium hydride | 0.384 mmol, 9.7 mg | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methoxyethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 89 mg, 81% yield | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCCOC)C=C1)OC)F | C34H35Cl2F2N3O5
